US07951810B2
Step c: 6-chloro-9-[(6aR,8R,9aS)-2,2,4,4tetraisopropylhexahydrocyclopenta[f][1,3,5,2,4]-trioxadisilocin-8-yl]-9H-purine
To a solution of O-[(6aR,8R,9S,9aR)-8-(6-chloro-9H-purin-9-yl)-2,2,4,4-tetraisopropylhexahydrocyclopenta[f][1,3,5,2,4]trioxadisilocin-9-yl] O-phenyl thiocarbonate (0.851 g, 1.28 mol) in toluene (20 mL) was added tri-n-butyltin hydride (0.680 mL, 2.53 mmol) and 2,2′-azo-bis-isobutyronitrile (0.075 g, 0.46 mmol). This solution was refluxed for 1 h. The reaction mixture was concentrated and purified by flash chromatography (0 to 50% EtOAc/hexanes) to afford the title compound (0.14 g, 74%).

reactant | O-[(6aR,8R,9S,9aR)-8-(6-chloro-9H-purin-9-yl)-2,2,4,4-tetraisopropylhexahydrocyclopenta[f][1,3,5,2,4]trioxadisilocin-9-yl] O-phenyl thiocarbonate | 1.28 mol, 0.851 g | C(O[C@H]1[C@@H](C[C@H]2[C@H]1O[Si](O[Si](OC2)(C(C)C)C(C)C)(C(C)C)C(C)C)N2C1=NC=NC(=C1N=C2)Cl)(OC2=CC=CC=C2)=S | C30H43ClN4O5SSi2
reactant | tri-n-butyltin hydride | 2.53 mmol, 0.680 mL | C(CCC)[SnH](CCCC)CCCC
reactant | 2,2′-azo-bis-isobutyronitrile | 0.46 mmol, 0.075 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 6-chloro-9-[(6aR,8R,9aS)-2,2,4,4tetraisopropylhexahydrocyclopenta[f][1,3,5,2,4]-trioxadisilocin-8-yl]-9H-purine | 0.14 g, 74% | ClC1=C2N=CN(C2=NC=N1)[C@@H]1C[C@H]2[C@@H](O[Si](O[Si](OC2)(C(C)C)C(C)C)(C(C)C)C(C)C)C1 | C23H39ClN4O3Si2
